US04395558
9a-O-demethyl-mitomycin G [step 6]:
9-epi-mitomycin D (10 mg) was dissolved in tetrahydrofuran (0.5 ml). To the solution was added 1,5-diazabicyclo[5,4,0]undec-5-ene (20 mg) and the solution was refluxed for 18 hours. After completion of the reaction, the solvent was removed by evaporation in vacuo, and the residue was purified by silica gel column chromatography using a solvent system of chloroform and acetone (3:2 v/v) to give the desired dark green needle crystals (4.4 mg; yield 53.8%) having the following physical characteristics.

reactant | 9-epi-mitomycin D | 10 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)O)N4C)N | C15H18N4O5
reactant | 1,5-diazabicyclo[5,4,0]undec-5-ene | 20 mg | N12CCCN=CC2CCCC1 | C9H16N2
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 9a-O-demethyl-mitomycin G | yield 53.8% | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3(C2=C)O)N4C)N | C14H15N3O3
